US09056859B2
5-[2-(piperazin-1-yl)ethyl]-4-(trifluoromethyl)-2-benzofuran-1(3H)-one hydrochloride was prepared in an analogous fashion to that described for the synthesis of 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride above starting from 5-bromo-4-(trifluoromethyl)-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 315 [M+1]+;

reactant | 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.CC1=C(C=CC=2C(OCC21)=O)CCN2CCNCC2
reactant | 5-bromo-4-(trifluoromethyl)-2-benzofuran-1(3H)-one | BrC1=C(C2=C(C(OC2)=O)C=C1)C(F)(F)F | C9H4BrF3O2
product | 5-[2-(piperazin-1-yl)ethyl]-4-(trifluoromethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.N1(CCNCC1)CCC1=C(C2=C(C(OC2)=O)C=C1)C(F)(F)F | InChI=1S/C15H17F3N2O2.ClH/c16-15(17,18)13-10(3-6-20-7-4-19-5-8-20)1-2-11-12(13)9-22-14(11)21;/h1-2,19H,3-9H2;1H
